US03987047
8-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride was prepared by hydrolysis of 8-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester in concentrated hydrochloric acid. Yield: 34% of theory; m.p. 245° C (decomp.).

reactant | 8-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2=NC=3C=C(C=CC3C(=C2CC1)C)O | C17H20N2O3
reactant | hydrochloric acid | Cl | ClH
product | 8-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride | Yield: 34% | Cl.Cl.OC=1C=CC=2C(=C3C(=NC2C1)CCNCC3)C | InChI=1S/C14H16N2O.2ClH/c1-9-11-3-2-10(17)8-14(11)16-13-5-7-15-6-4-12(9)13;;/h2-3,8,15,17H,4-7H2,1H3;2*1H
